US07612075B2
A. 7-Chloro-isoquinoline-3-carbaldehyde.
A 20 mL of 80% H2SO4 is added 7-chloro-3,3-dibromomethyl isoquinoline (0.69 g, 2.06 mmol) is heated to 150° C. for 16 hours. The solution is then cooled to ambient temperatures and diluted with 40 mL of H2O. The resulting solution is basified to pH=11 with 1N NaOH. The aqueous solution is extracted with CH2Cl2. The organic solution is washed with H2O and a saturated NaCl solution. The organic layer is dried over MgSO4, filtered and concentrated to give the product as an oil (0.25 g, 1.3 mmol). 1H NMR (CDCl3, 300 MHz) δ10.0 (s, 1H), 9.30 (s, 1H), 8.36 (s, 1H), 8.07 (s, 1H), 7.95 (d, 1H), 7.78 (d, 1H). MS (EI): m/z 191, 193 (M+), Cl pattern.

reactant | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
reactant | 7-chloro-3,3-dibromomethyl isoquinoline | 2.06 mmol, 0.69 g | ClC=1C=CC2=CC(NC=C2C1)(CBr)CBr | C11H10Br2ClN
reactant | NaOH | 1N | [OH-].[Na+]
solvent | H2O | 40 mL | O | H2O
product | 7-Chloro-isoquinoline-3-carbaldehyde | 1.3 mmol, 0.25 g | ClC1=CC=C2C=C(N=CC2=C1)C=O | C10H6ClNO
